US08217066B2
Step 3: 1-{4′-[4-((E)-2,2-Difluoro-1-hydroxy-4-phenyl-but-3-enyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester:
Prepared according to the procedure described in Example 59, Step 1, using 1-{4′-[4-(2,2-difluoro-1-hydroxy-but-3-enyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester and iodobenzene.

reactant | 1-{4′-[4-(2,2-difluoro-1-hydroxy-but-3-enyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)C(C(C=C)(F)F)O | C26H25F2NO4
reactant | iodobenzene | IC1=CC=CC=C1 | C6H5I
product | 1-{4′-[4-((E)-2,2-Difluoro-1-hydroxy-4-phenyl-but-3-enyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)C(C(\C=C\C1=CC=CC=C1)(F)F)O | C32H29F2NO4
